*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/CH(-55to125[deg])/3.30e-04[uF]/100[V]
* Murata P/N :GCM2162C2A331JA01
* Property : C = 3.30e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2162C2A331JA01 Port1 Port2
C01 Port1 N01 3.30e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 9.14e-11
R03 N02 N03 7.53e-02
L04 N03 N04 1.93e-11
R04 N03 N04 5.64e-01
L05 N04 N05 1.09e-11
R05 N04 N05 3.44e-02
C06 N05 N06 1.03e-09
L06 N05 N06 1.21e-11
R06 N05 N06 2.45e-01
C07 N06 N07 1.49e-10
L07 N06 N07 2.18e-11
R07 N06 N07 6.71e-01
C08 N07 N08 1.95e-12
L08 N07 N08 1.61e-10
R08 N07 N08 1.00e+05
C09 N08 Port2 1.37e-12
L09 N08 Port2 2.24e-10
R09 N08 Port2 2.42e+02
.ENDS GCM2162C2A331JA01
